US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-2-[(4-methyl)phenethyl]thiophene-3-sulfonamide was prepared, as described in Example 2, using 2-[(4-methyl)phenethyl]thiophene-3-sulfonylchloride and 5-amino-4-bromo-3-methylisoxazole in 52% yield.

reactant | 2-[(4-methyl)phenethyl]thiophene-3-sulfonylchloride | CC1=CC=C(CCC=2SC=CC2S(=O)(=O)Cl)C=C1 | C13H13ClO2S2
reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-2-[(4-methyl)phenethyl]thiophene-3-sulfonamide | 52% yield | BrC=1C(=NOC1NS(=O)(=O)C1=C(SC=C1)CCC1=CC=C(C=C1)C)C | C17H17BrN2O3S2
